US07902401B2
To a solution of 2-amino-N-benzyl-3-(difluoromethoxy)propanamide (195 mg, 0.798 mmol) and triethylamine (322 mg, 3.19 mmol) in THF (5 mL), acetic hydride (98.5 mg, 0.958 mmol) was added. The reaction mixture was stirred at room temperature for an hour, diluted with ethyl acetate and washed with water. The organic layer was concentrated with silica gel and purified by column chromatography, eluting with 50-100% ethyl acetate in hexanes. The product was triturated with diethyl ether to give 2-(acetylamino)-N-benzyl-3-(difluoromethoxy)propanamide (135 mg, 59%) as a white solid, MP: 173.3° C. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.25-7.39 (m, 5H), 6.68 (w, 1H), 6.42 (d, 1H), 6.24 (wt, 1H), 4.73 (m, 1H), 4.48 (d, 2H), 4.24 (dd, 1H), 4.01 (dd, 1H) and 2.05 (s, 3H).

reactant | 2-amino-N-benzyl-3-(difluoromethoxy)propanamide | 0.798 mmol, 195 mg | NC(C(=O)NCC1=CC=CC=C1)COC(F)F | C11H14F2N2O2
reactant | triethylamine | 3.19 mmol, 322 mg | C(C)N(CC)CC | C6H15N
reactant | acetic hydride | 0.958 mmol, 98.5 mg | C(C)=O | C2H4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(acetylamino)-N-benzyl-3-(difluoromethoxy)propanamide | 135 mg, 59% | C(C)(=O)NC(C(=O)NCC1=CC=CC=C1)COC(F)F | C13H16F2N2O3
